US05254558
To a solution of 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.345 g) in tetrahydrofuran (7 mL) and triethylamine (0.36 mL) at 0° C. was added methanesulfonoyl chloride (0.19 mL) and the resulting solution was allowed to stir overnight. The mixture was diluted with ethyl acetate and the solution washed (1N hydrochloric acid, water, 5% sodium bicarbonate). The organic layer was dried and evaporated. The residue was dissolved in tetrahydrofuran (1 mL), and to it was added 3N aqueous potassium hydroxide (0.07 mL). The solution was allowed to stir for 12 h. The reaction was quenched by addition of 1N hydrochloric acid and the product was extracted into ethyl acetate. The organic layer was washed (water, brine), and the solution was dried and evaporated. The resulting material was purified by chromatography, with tetrahydrofuran:dichloromethane (10:90) as the eluent, to provide 2-(5-methylsulfonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide as a white solid (0.146 g); NMR (DMSO/D2O): 9.35 (s,1), 8.84 (d,1), 8.01 (s,1), 7.50 (m,5), 4.68 (m,2), 4.55 (d,1), 3.10 (s,3), 2.16 (m,1), 0.89 (d,3), 0.83 (d,3).

reactant | 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.345 g | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=CC=C1 | C18H19F3N4O3
reactant | methanesulfonoyl chloride | 0.19 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 0.36 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-methylsulfonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.146 g | CS(=O)(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=CC=C1 | C19H21F3N4O5S
